US03998834
A mixture of 10.4 parts of 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid, sodium salt and 75 parts of hexamethylphosphoric triamide is stirred at 110° C for a while. It is cooled to 20° C and 3.7 parts of 2-bromopropane are added dropwise. After stirring for 4 hours, another 0.37 parts of 2-bromopropane is added dropwise. Upon completion, stirring is continued over week-end at room temperature. The reaction mixture is poured onto 150 parts of water and the product is extracted with methylbenzene. The extract is washed with water, dried, filtered and evaporated. The oily residue is dissolved in 1,1'-oxybisethane. The solution is stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated. The oily residue is crystallized from hexane. The product is filtered off and recrystallized from hexane, yielding 1-methylethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate; mp. 78.5° C.

reactant | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C20H24N2O2
reactant | sodium | [Na] | Na
reactant | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 2-bromopropane | BrC(C)C | C3H7Br
solvent | water | O | H2O
product | 1-methylethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OC(C)C | C23H30N2O2
